US05424443
7-amino-2,4-dichloro-6-fluorobenzothiazole
5 g Iron powder was added to 40 ml 5% aqueous acetic acid. The mixture was heated to reflux and a solution of 5 g 2,4-dichloro-6-fluoro-7-nitrobenzothiazole in 40 ml acetic acid and 40 ml ethyl acetate was added. The mixture was heated for 2 hours under reflux and after cooling the mixture was filtered over celite, the phases separated and the aqueous phase extracted with ethyl acetate. The combined organic phases were washed with aqueous sodium hydrogen carbonate and water and dried with magnesium sulfate. Yield: 4.3 g=97% of theory m.p.: 173° C.

reactant | 2,4-dichloro-6-fluoro-7-nitrobenzothiazole | 5 g | ClC=1SC2=C(N1)C(=CC(=C2[N+](=O)[O-])F)Cl | C7HCl2FN2O2S
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
catalyst | Iron | 5 g | [Fe] | Fe
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 7-amino-2,4-dichloro-6-fluorobenzothiazole | NC1=C(C=C(C=2N=C(SC21)Cl)Cl)F | C7H3Cl2FN2S
